US08084448B2
E. Methyl N-(aminosulfonyl)-N-(2-(benzyloxy)-4-{2-oxo-2-[2-(trimethylsilyl)ethoxy]ethoxy}phenyl)glycinate
A mixture of methyl N-(2-(benzyloxy)-4-{2-oxo-2-[2-(trimethylsilyl)ethoxy]ethoxy}phenyl)-N-{[(tert-butoxycarbonyl)amino]sulfonyl}glycinate (50 mg, 0.08 mmol) in HCl/dioxane (3 mL, 4.0 M) is stirred at RT for 30 min. The solvent is removed under reduced pressure and water is added. The mixture is extracted with EtOAc and the organic phase dried over magnesium sulfate. The solvent is removed under reduced pressure to give the title compound.

reactant | methyl N-(2-(benzyloxy)-4-{2-oxo-2-[2-(trimethylsilyl)ethoxy]ethoxy}phenyl)-N-{[(tert-butoxycarbonyl)amino]sulfonyl}glycinate | 0.08 mmol, 50 mg | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)OCC(OCC[Si](C)(C)C)=O)N(CC(=O)OC)S(=O)(=O)NC(=O)OC(C)(C)C | C28H40N2O10SSi
solvent | HCl dioxane | 4.0 M, 3 mL | Cl.O1CCOCC1
product | Methyl N-(aminosulfonyl)-N-(2-(benzyloxy)-4-{2-oxo-2-[2-(trimethylsilyl)ethoxy]ethoxy}phenyl)glycinate | NS(=O)(=O)N(CC(=O)OC)C1=C(C=C(C=C1)OCC(OCC[Si](C)(C)C)=O)OCC1=CC=CC=C1 | C23H32N2O8SSi
